US07081463B2
1-(4-Fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one (0.056 g, 0.22 mmol) and 8-(tert-butyl-dimethyl-silanyloxymethyl)-naphthalene-1-carbaldehyde (0.067 g, 0.22 mmol) were dissolved in dry 1,2-dichloroethane (5 mL). To the reaction mixture was added crashed 4A Molecular Sieve (0.028 g), a catalytic amount of glacial acetic acid. The reaction mixture was stirred at room temperature for 1 hr and it was then added at room temperature sodium triacetoxyborohydride (0.071 g, 0.33 mmol) under nitrogen atmosphere and the reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was then partitioned with water and dichloromethane. The organic layer was washed with brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield a crude oil. The crude oil was purified via semi-preparative HPLC (aqueous 0.5% TFA/acetonitrile) to yield crude 8-[8-(tert-butyl-dimethyl-silanyloxymethyl)-naphthalen-1-ylmethyl]-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one which was directly used to the next step.

reactant | 1-(4-Fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | 0.22 mmol, 0.056 g | FC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C13H16FN3O
reactant | 8-(tert-butyl-dimethyl-silanyloxymethyl)-naphthalene-1-carbaldehyde | 0.22 mmol, 0.067 g | C(C)(C)(C)[SiH2]OC(C=1C=CC=C2C=CC=C(C12)C=O)(C)C | C18H24O2Si
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.33 mmol, 0.071 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 8-[8-(tert-butyl-dimethyl-silanyloxymethyl)-naphthalen-1-ylmethyl]-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | C(C)(C)(C)[SiH2]OC(C=1C=CC=C2C=CC=C(C12)CN1CCC2(C(NCN2C2=CC=C(C=C2)F)=O)CC1)(C)C | C31H40FN3O2Si
